US06025489
9-Ethyl-4-[(2-hydroxyethyl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with N-(2-(benzyloxy)ethylbenzylamine, followed by reaction with 2-ethyl-4-methylimidazole, reduction with tin (II) chloride, cyclization with carbonyldiimidazole, and hydrogenation with palladium on carbon in methanol containing 1.1 eq. NaOH at 50 psi and 500 for 24 hours.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 2-(benzyloxy)ethylbenzylamine | C(C1=CC=CC=C1)OCCNCC1=CC=CC=C1 | C16H19NO
reactant | 2-ethyl-4-methylimidazole | C(C)C=1NC=C(N1)C | C6H10N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanol | 1.1 eq | CO | CH4O
reactant | NaOH | [OH-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
product | 9-Ethyl-4-[(2-hydroxyethyl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC=NC3N21)N(C)CCO)=O | C13H16N6O2
